US07994164B2
[4-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenyl]-(4-methyl-piperazin-1-yl)-amine
Degas three times a mixture of (4-bromo-2-nitro-phenyl)-(4-methyl-piperazin-1-yl)-amine (0.016 mol, 5.0 g), (E)-3,7-difluoro-11-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-ylmethylene)-6,11-dihydro-dibenzo[b,e]oxepine (0.017 mol, 6.4 g), triphenylphosphine (0.0028 mol, 0.74 g) and potassium acetate (0.0317 mol, 3.11 g) in dioxane/water (3:1) (200 mL) with nitrogen. Add palladium (II) acetate (0.5 mmol, 113 mg) to the reaction mixture and degas again three times with nitrogen. Heat the resulting reaction mixture at 85° C. for 16 h. Cool the reaction mixture to room temperature and dilute with water. Extract the mixture with ethyl acetate, combine organic layers, and wash with water and brine. Dry the organic phase over anhydrous sodium sulfate, filter, and concentrate. Crystallize the crude material from methanol, filter, and dry under vacuum to obtain the title compound (4.2 g, 55%) as an orange solid. ES-MS m/z 479 [M+1]+.

reactant | (4-bromo-2-nitro-phenyl)-(4-methyl-piperazin-1-yl)-amine | 0.016 mol, 5.0 g | BrC1=CC(=C(C=C1)NN1CCN(CC1)C)[N+](=O)[O-] | C11H15BrN4O2
reactant | (E)-3,7-difluoro-11-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-ylmethylene)-6,11-dihydro-dibenzo[b,e]oxepine | 0.017 mol, 6.4 g | FC=1C=CC/2=C(OCC3=C(\C2=C/B2OC(C(O2)(C)C)(C)C)C=CC=C3F)C1 | C21H21BF2O3
reactant | triphenylphosphine | 0.0028 mol, 0.74 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium acetate | 0.0317 mol, 3.11 g | C(C)(=O)[O-].[K+]
solvent | dioxane water | 200 mL | O1CCOCC1.O
solvent | water | O | H2O
catalyst | palladium (II) acetate | 0.5 mmol, 113 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [4-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenyl]-(4-methyl-piperazin-1-yl)-amine | 4.2 g, 55% | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC(=C(C=C2)NN2CCN(CC2)C)[N+](=O)[O-])C=CC=C3F)C1 | C26H24F2N4O3
